US07456169B2
A solution of di-tert-butyl dicarbonate (3.274 g, 15 mmol) in CH2Cl2 (8 mL) was added to a solution of 4-aminopyridine (1.412 g, 15 mmol) in CH2Cl2 (15 mL), and was stirred at room temperature for 30 minutes. Acidified with IM HCl. Washed with CH2Cl2. Neutralized aqueous layer with K2CO3. Partitioned between CH2Cl2 and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum to provide 2.41 g (83%) of pyridin-4-yl-carbamic acid tert-butyl ester.

reactant | di-tert-butyl dicarbonate | 15 mmol, 3.274 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-aminopyridine | 15 mmol, 1.412 g | NC1=CC=NC=C1 | C5H6N2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | pyridin-4-yl-carbamic acid tert-butyl ester | 2.41 g, 83% | C(C)(C)(C)OC(NC1=CC=NC=C1)=O | C10H14N2O2
